US04689337
A solution of 4-trifluoromethoxybromobenzene (9.3 g.) in dry tetrahydrofuran (40 cm3) was added dropwise to a stirred mixture of magnesium turnings (0.93 g.), dry tetrahydrofuran (15 cm3) and a crystal of iodine under a nitrogen atmosphere and at the ambient temperature. The reaction was observed to have commenced after 4 cm3 of the solution had been added. After the addition was complete the mixture was stirred for a further 2 hours. A solution of methyl 2-(1,2,4-1H-triazol-1-yl)propionate (3.0 g.) in dry tetrahydrofuran (5.0 cm3) was added dropwise to the mixture and after stirring for a further two hours at the ambient temperature the mixture was warmed to 40° C. for 3 hours. The mixture was then quenched with water, acidified with dilute hydrochloric acid and extracted with diethyl ether. The ethereal extract was washed with water (three times) and dried over anhydrous magnesium sulphate. The residual oil remaining after removal of the solvent by evaporation under reduced pressure was subjected to purification by hplc using a silica gel column eluted with a mixture of dichloromethane (3 parts by volume) and ethyl acetate (2 parts by volume) to give 1,1-bis(4-trifluoromethoxy- phenyl)-2-(1,2,4-1H-triazol-1-yl)propanol (1.0 g.) as a solid residue.

reactant | 4-trifluoromethoxybromobenzene | 9.3 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | magnesium | 0.93 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | methyl 2-(1,2,4-1H-triazol-1-yl)propionate | 3.0 g | N1(N=CN=C1)C(C(=O)OC)C | C6H9N3O2
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | 1,1-bis(4-trifluoromethoxy- phenyl)-2-(1,2,4-1H-triazol-1-yl)propanol | 1.0 g | FC(OC1=CC=C(C=C1)C(C(C)N1N=CN=C1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C19H15F6N3O3
